US07705042B2
a) 4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine-1-carboxylic acid benzyl ester
The procedure of Example 4, step (b) was followed using 400 mg (1.57 mmol) of 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine (as prepared in the Example 12, step (a)) and 910 mg (4.71 mmol) of benzyl 1-piperazinecarboxylate (except that 549 μL (4.71 mmol) of 2,6-lutidine was also added) to afford, after chromatography on a 70-g silica SPE column with 40% EtOAc-hexane, 178 mg (45%) of unreacted 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine and 245 mg (64% based on recovered starting material) of the title compound as a yellow resin: Mass spectrum (ESI, m/z): Calcd. for C24H30N4O4, 439.2 (M+H), found 439.2.

reactant | 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine | 1.57 mmol, 400 mg | ClC=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C12H15ClN2O2
reactant | benzyl 1-piperazinecarboxylate | 4.71 mmol, 910 mg | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | 2,6-lutidine | 4.71 mmol, 549 μL | N1=C(C=CC=C1C)C | C7H9N
product | 4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])N1CCC(CC1)C | C24H30N4O4
